US04668505
isopropyl p-aminobenzoate
ethyl N-(2-hydroxypropyl)-p-aminobenzoate and ethyl N,N-bis(2-hydroxypropyl)-p-aminobenzoate, which are sold under the trade name Amerscreen P

reactant | ethyl N-(2-hydroxypropyl)-p-aminobenzoate | OC(CNC1=CC=C(C(=O)OCC)C=C1)C | C12H17NO3
reactant | ethyl N,N-bis(2-hydroxypropyl)-p-aminobenzoate | OC(CN(C1=CC=C(C(=O)OCC)C=C1)CC(C)O)C | C15H23NO4
reactant | Amerscreen P | CCOC(=O)C1=CC=C(C=C1)N(CC(C)O)CC(C)O | C15H23NO4
product | isopropyl p-aminobenzoate | NC1=CC=C(C(=O)OC(C)C)C=C1 | C10H13NO2
